US04764517
(a) 8α-benzyloxycarbonylamino-6-methylergoline
10.5 ml (75 mM) carbobenzyloxychloride are added to a suspension of 18 g (74.7 mM) 8α-amino-6-methylergoline in 1000 ml chloroform, 150 ml isopropanol and 37 ml 2N (74 mM) sodium hydroxide at room temperature. The mixture is stirred for 2 hours at room temperature. After separation of the organic phase, this is dried, filtered and concentrated. The resultant crude product is filtered through silicagel with methylene chloride/methanol (99:1) giving the heading compound as a foam.

reactant | carbobenzyloxychloride | 75 mM, 10.5 ml | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | 8α-amino-6-methylergoline | 74.7 mM, 18 g | N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C15H19N3
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
solvent | sodium hydroxide | 2N, 37 ml | [OH-].[Na+]
product | 8α-benzyloxycarbonylamino-6-methylergoline | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C23H25N3O2
